US07728003B2
Step A. 3-(Indan-5-ylamino)-propionic acid ethyl ester
To a mixture of 5-aminoindane (5 g, 37.6 mmol), ethyl 3-chloropropionate (4.7 mL, 37.6 mmol) and potassium carbonate (5.2 g, 37.6 mmol) was added tetrabutylammonium bromide (200 mg). The mixture was stirred at 100° C. for 16 hours. After cooling to room temperature (rt), the mixture was extracted into ethyl acetate (EtOAc), washed with water, brine and then dried with sodium sulfate (Na2SO4). Removal of the solvent and chromatography on silica, eluting with EtOAc/hexanes (1:20-1:10, v/v), gave 6.2 g (71%) of the title compound. 1H NMR (300 MHz, CDCl3) δ (ppm): 7.03 (d, J=7.6 Hz, 1H), 6.55 (s, 1H), 6.43 (d, J=7.6 Hz, 1H), 4.15 (q, 2H), 3.86 (br, 1H), 3.43 (t, 2H), 2.82 (m, 4H), 2.60 (t, 2H), 2.06 (m, 2H), 1.27 (t, 3H).

reactant | 5-aminoindane | 37.6 mmol, 5 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | ethyl 3-chloropropionate | 37.6 mmol, 4.7 mL | ClCCC(=O)OCC | C5H9ClO2
reactant | potassium carbonate | 37.6 mmol, 5.2 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 200 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(Indan-5-ylamino)-propionic acid ethyl ester | 6.2 g, 71% | C(C)OC(CCNC=1C=C2CCCC2=CC1)=O | C14H19NO2
